US04489003
10.35 g (0.03 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 25 ml of hydroxymethylcyclobutane and 0.5 g of powdered potassium cyanide are heated to 165° for 2 hours, the ethanol formed being distilled off continuously. The mixture is subsequently evaporated in vacuo, the residue is taken up in chloroform, the chloroform solution is washed three times with water, dried over magnesium sulphate and evaporated. By recrystallization of the resulting material from ethyl acetate there is obtained cyclobutylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 204°-205°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 0.03 mmol, 10.35 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | hydroxymethylcyclobutane | 25 ml | OCC1CCC1 | C5H10O
reactant | potassium cyanide | 0.5 g | [C-]#N.[K+]
solvent | ethanol | C(C)O | C2H6O
product | cyclobutylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CCC3)CCC1)=O | C20H20ClN3O3
